US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-[4-fluoro-3-(trifluoromethyl)phenyl]benzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (54 mg, 0.20 mmol) and 1,1′-Carbonyldiimidazole (36 mg, 0.22 mmol) in 3.0 mL DMSO was stirred at rt for 5 minutes, and then heated at 60° C. for 25 minutes. Then 4-fluoro-3-(trifluoromethyl)aniline (0.051 mL, 0.40 mmol) was added, and the reaction heated at 80° C. for 46 hours. Next, an additional 2 small drops of 4-fluoro-3-(trifluoromethyl)aniline was added and the reaction heated at 160° C. for 1.5 hours. Upon cooling to rt, the reaction mixture was added to a solution of 35 mL H2O plus 5 mL brine, and the resulting precipitate filtered and rinsed with H2O and hexane/EtOAc. The precipitate was chromatographed using CHCl3/MeOH, and the resulting solid chromatographed again using EtOAc/MeOH to give the title compound as a yellow solid (8 mg, 9%). 1H NMR (Acetone-d6) δ: 9.77 (br. s., 1H), 8.31 (dd, J=6.4, 2.6 Hz, 1H), 8.10-8.17 (m, 2H), 7.62-7.64 (m, 1H), 7.35-7.44 (m, 3H), 7.24-7.28 (m, 1H), 5.79 (br. s., 2H), 4.35 (s, 2H), 3.70 (t, J=5.9 Hz, 2H), 2.80-2.86 (m, 2H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.20 mmol, 54 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | 1,1′-Carbonyldiimidazole | 0.22 mmol, 36 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-fluoro-3-(trifluoromethyl)aniline | 0.40 mmol, 0.051 mL | FC1=C(C=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | H2O | 35 mL | O | H2O
solvent | DMSO | 3.0 mL | CS(=O)C | C2H6OS
solvent | brine | 5 mL | [Cl-].[Na+].O
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-[4-fluoro-3-(trifluoromethyl)phenyl]benzamide | 8 mg, 9% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=C(C=C1)F)C(F)(F)F)C=CC2 | C21H17F4N5O
